US07241745B2
4-(1-benzylpiperidin-3-yl)-butylamine
8.0 g (33.3 mmol) 4-(1-benzylpiperidin-3-yliden)-butyronitrile are dissolved in 80 ml ethanol and added to a spatula tip of Raney-Nickel. The mixture is stirred at ca. 50° C. under hydrogen atmosphere until consumption of the theoretischen amount of hydrogen to be taken up (ca. 5 days). The mixture is filtrated from the catalyst and the solvent is removed under vacuum. The residue is chromatographically purified twice over silica gel with CHCl3/CH3OH/NH4OH (90/10/1). After drawing off the solvent, a colorless oil remains which is further processed without additional purification. Yield: 3.9 g (47%).

reactant | 4-(1-benzylpiperidin-3-yliden)-butyronitrile | 33.3 mmol, 8.0 g | C(C1=CC=CC=C1)N1CC(CCC1)=CCCC#N | C16H20N2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 80 ml | C(C)O | C2H6O
catalyst | Raney-Nickel | [Ni] | Ni
product | 4-(1-benzylpiperidin-3-yl)-butylamine | C(C1=CC=CC=C1)N1CC(CCC1)CCCCN | C16H26N2
